US05874435
(R)-(-)-3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-methyl-1-propanol fumarate
A mixture of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (14.5 g, 65 mmol), K2CO3 (10 g, 72 mmol). (R)-(-)-3-bromo-2-methyl-1-propanol (10 g, 65.3 mmol), tetrabutylammonium hydrogen sulfate (1,27 g, phase transfer catalyst) in acetonitrile (300 ml) and H2O (5 ml) was heated at reflux for 6 hours. The mixture was cooled and the solvent was removed on rotary evaporator. The residue was extracted into methylene chloride (DCM), and the insolubles were filtered. After concentration of the extract, the crude product was purified by flash chromatography over a silica gel column (SiO2, 150 g; eluted with DCM, 11; 2% CH3OH in DCM, 1.6). The material thus purified weighed 17 g (89%). The sample for testing was prepared by treatment of a sample (2.28 g) with fumaric acid (953 mg) in ethanol. The crystals fonned slowly upon addition of isopropyl ether. These were collected and dried: weight 1.84 g, m.p.=114°-115° C.

reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 65 mmol, 14.5 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 72 mmol, 10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (R)-(-)-3-bromo-2-methyl-1-propanol | 65.3 mmol, 10 g | BrC[C@@H](CO)C | C4H9BrO
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
catalyst | tetrabutylammonium hydrogen sulfate | 1,27 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | H2O | 5 ml | O | H2O
product | (R)-(-)-3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-methyl-1-propanol fumarate | C(\C=C\C(=O)O)(=O)O.FC1=CC2=C(C(=NO2)C2CCN(CC2)C[C@H](CO)C)C=C1 | InChI=1S/C16H21FN2O2.C4H4O4/c1-11(10-20)9-19-6-4-12(5-7-19)16-14-3-2-13(17)8-15(14)21-18-16;5-3(6)1-2-4(7)8/h2-3,8,11-12,20H,4-7,9-10H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+/t11-;/m1./s1
